US05559230
To a solution of 5-acetyloxyimino-1-[4-(2-chlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.48 g) in acetic acid (20 ml) is added platinum oxide (0.05 g) and the mixture is subjected to catalytic reduction under hydrogen atmosphere. After completion of the reaction, the catalyst is removed by filtration, and the filtrate is concentrated. The resulting residue is purified by silica gel column chromatography (eluent; dichloromethane:methanol=20:1→10:1), and recrystallized from ethanol/diethyl ether to give 5-amino-1-[4-(2-chlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.19 g) as colorless prisms, m.p. 176°-178° C.

reactant | 5-acetyloxyimino-1-[4-(2-chlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.48 g | C(C)(=O)ON=C1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)=O | C26H22ClN3O4
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 0.05 g | [Pt]=O
product | 5-amino-1-[4-(2-chlorobenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.19 g | NC1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)=O | C24H22ClN3O2
